US04207321
17: 1,3-Diethyl-7-(pent-4-enyl)-xanthine
is prepared analogously to Example 12 from 1,3-diethyl-xanthine and 5-bromopent-1-ene; the yield relative to the starting material used is 84%.

reactant | 1,3-diethyl-xanthine | C(C)N1C(=O)N(C=2N=CNC2C1=O)CC | C9H12N4O2
reactant | 5-bromopent-1-ene | BrCCCC=C | C5H9Br
product | 1,3-Diethyl-7-(pent-4-enyl)-xanthine | C(C)N1C(=O)N(C=2N=CN(C2C1=O)CCCC=C)CC | C14H20N4O2
